US04117130
Preparation of 6-(p-chlorophenyl)-3,8-dimethyl-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 1.0 g. of 3-chloro-6-(p-chlorophenyl)-4-methylpyridazine, 0.62 g. of acetic acid hydrazide and 10 ml. of n-butanol is refluxed for 48 hours. The solvent is removed and the residue dissolved in dichloromethane and filtered through magnesol. The solid from the filtrate is recrystallized from dichloromethane-hexane to give 0.6 g. of solid, m.p. 209°-212° C. Recrystallization from dichloromethane-hexane gives the product of the example as light pink colored crystals, m.p. 215°-217° C.

reactant | 3-chloro-6-(p-chlorophenyl)-4-methylpyridazine | ClC=1N=NC(=CC1C)C1=CC=C(C=C1)Cl | C11H8Cl2N2
reactant | acetic acid hydrazide | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-(p-chlorophenyl)-3,8-dimethyl-1,2,4-triazolo[4,3-b]pyridazine | ClC1=CC=C(C=C1)C=1C=C(C=2N(N1)C(=NN2)C)C | C13H11ClN4
